US20010006969A1
2-Chloro-7-methyl-4-neopentylaminothieno[3,2-d]pyrimidine
In 3 ml of DMF was dissolved 300 mg (1.4 mmol) of 2,4-dichloro-7-methylthieno[3,2-d]pyrimidine, and after 179 mg (2.1 mmol) of neopentylamine was added to the resulting solution, the mixture was stirred for 3 hours. Water was added to the reaction mixture, and crystals thus precipitated were filtered to give 355 mg (yield: 96.1%) of the title compound.

reactant | 2,4-dichloro-7-methylthieno[3,2-d]pyrimidine | 1.4 mmol, 300 mg | ClC=1N=C(C2=C(N1)C(=CS2)C)Cl | C7H4Cl2N2S
reactant | neopentylamine | 2.1 mmol, 179 mg | C(C(C)(C)C)N | C5H13N
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-7-methyl-4-neopentylaminothieno[3,2-d]pyrimidine | 355 mg, yield: 96.1% | ClC=1N=C(C2=C(N1)C(=CS2)C)NCC(C)(C)C | C12H16ClN3S
